US06903120B2
4-(3-Methanesulfonyl-phenyl)-1-butyl-piperidine
Beginning with 4-(3-methanesulfonyl-phenyl)-piperidine and n-BuCl. MS m/z (rel. intensity, 70 eV) 295 (M+, 3), 252 (bp), 130 (5), 115 (3), 70 (8).

reactant | 4-(3-methanesulfonyl-phenyl)-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCNCC1 | C12H17NO2S
solvent | n-BuCl | C(CCC)Cl | C4H9Cl
product | 4-(3-Methanesulfonyl-phenyl)-1-butyl-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCN(CC1)CCCC | C16H25NO2S
